US07495009B2
Stage 6: 3-{2-[(4-methoxybenzyl)amino]ethyl}-N5,N5-bis(3-methylbutyl)-N2-(3,4,5-trimethoxyphenyl)-3H-imidazo[4,5-b]pyridine-2,5-diamine
A solution of 3-(2-aminoethyl)-N5,N5-bis(3-methylbutyl)-N2-(3,4,5-trimethoxyphenyl)-3H-imidazo[4,5-b]pyridine-2,5-diamine (83 mg, 1 eq) and p-anisaldehyde (25 mg, 1 eq) in dichloromethane (1.5 ml) is stirred for 6 hours at a temperature of approximately 20° C. The mixture is diluted with methanol (2 ml) then sodium triacetoxyborohydride (70 mg, 2 eq) is added. After stirring for 0.5 hour at a temperature of approximately 20° C., dichloromethane (20 ml) and water saturated with sodium hydrogen carbonate (10 ml) are added to the mixture. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: heptane/ethyl acetate 1:1 to 2:8) produces the expected compound (70 mg, 68% yield).

reactant | 3-(2-aminoethyl)-N5,N5-bis(3-methylbutyl)-N2-(3,4,5-trimethoxyphenyl)-3H-imidazo[4,5-b]pyridine-2,5-diamine | 83 mg, 1 eq | NCCN1C(=NC=2C1=NC(=CC2)N(CCC(C)C)CCC(C)C)NC2=CC(=C(C(=C2)OC)OC)OC | C27H42N6O3
reactant | p-anisaldehyde | 25 mg, 1 eq | C(C1=CC=C(C=C1)OC)=O | C8H8O2
reactant | sodium triacetoxyborohydride | 70 mg, 2 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-{2-[(4-methoxybenzyl)amino]ethyl}-N5,N5-bis(3-methylbutyl)-N2-(3,4,5-trimethoxyphenyl)-3H-imidazo[4,5-b]pyridine-2,5-diamine | 70 mg, 68% yield | COC1=CC=C(CNCCN2C(=NC=3C2=NC(=CC3)N(CCC(C)C)CCC(C)C)NC3=CC(=C(C(=C3)OC)OC)OC)C=C1 | C35H50N6O4
